US06225311B1
2-{{[4-(2-Butynyloxy)Phenyl]Sulfonyl}[4-(Diethylamino)-2-Butynyl]Amino}-N-Hydroxy-3-Methylbutanamide
Methyl 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(diethylamino)-2-butynyl]amino}-3-methylbutanoate was converted into 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(diethylamino)2-butynyl]amino}-N-hydroxy-3-methylbutanamide hydrochloride, isolated as a brown foam, according to the procedures of Examples 11 and 9. Electrospray Mass Spec 464.5 (M+H)+

reactant | Methyl 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(diethylamino)-2-butynyl]amino}-3-methylbutanoate | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C(C)C)CC#CCN(CC)CC | C24H34N2O5S
reactant | 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(diethylamino)2-butynyl]amino}-N-hydroxy-3-methylbutanamide hydrochloride | Cl.C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)NO)C(C)C)CC#CCN(CC)CC
product | 2-{{[4-(2-Butynyloxy)Phenyl]Sulfonyl}[4-(Diethylamino)-2-Butynyl]Amino}-N-Hydroxy-3-Methylbutanamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)NO)C(C)C)CC#CCN(CC)CC | C23H33N3O5S
